Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right carotid artery stenosis
 
Major Surgical or Invasive Procedure:
Right carotid endarterectomy 
 
History of Present Illness:
On ___ patient presented to ___ with
two days of transient LUE numbness and tingling. She was in her
usual state of health when she felt acute onset of left hand
numbness primarily in the medial 3 fingers. The sensation
resolved after ___ minutes. The next day, she had numbness of
the LUE extending from her hand to her distal forearm which then
went away, and then on the day of admission had transient
numbness extending to her proximal left arm and left side of
face. She denies any changes in vision, dizziness/headaches,
difficulty with speech/comprehension, weakness of any extremity,
or neck pain throughout this time. At ___, she had
an MRI demonstrating multifocal infarcts in the right MCA
distribution, both combination of new and subacute findings. 
Last
numbness was ___ morning, no episodes since then. 

Her cryptogenic stroke history is as follows: in ___, she 
was
admitted for LUE weakness/numbness/tingling and found to have
scattered infarcts in the right frontal lobe, right frontal
gyrus, right inferior temporal gyrus. She underwent an extensive
workup at that time which revealed less than 50% stenosis of
bilateral ICA. Holter monitor demonstrated no atrial
fibrillation. TCDs did not show any sign of emboli.  TEE showed
right to left shunting at the atrial level consistent with 
patent
foreman ovale.  She underwent a lower extremity ultrasound which
demonstrated no DVTs. An MRV of the pelvis was performed which
demonstrated no DVT.  She was recommended to either start 
empiric
apixaban versus an implantable recorder, she chose the former. 
She has been taking her apixaban as instructed as an outpatient,
and she was started on atorvastatin as well as aspirin and
Plavix, the latter for 30 days after the ___ stroke. 

Currently she denies fevers/chills, chest pain/SOB, abdominal
pain. Of note, her blood pressure is very labile at baseline and
she was both hypotensive to SBP ___ and hypertensive to SBP 200s
over the past few days. On physical exam, patient is
neurologically intact. Full strength and sensation bilaterally 
in
upper and lower extremities, no evidence of facial droop or
slurred speech. 

 
Past Medical History:
PAST MEDICAL HISTORY:
- HTN
  - reports home sBP usually 130-140s, but occasionally 160s
  -episodes of post-prandial hypotension 
  - has tried multiple meds (metoprolol, amlodipine,
HCTZ-lisinopril) but has had difficulties with symptomatic
hypotension
- CKD
- HLD
- asthma
- osteopenia
- L knee arthroscopic surgery
- gout

 
Social History:
___
Family History:
Mother - deceased at age ___ CAD, COPD, colon Ca, HLD, TB
Father - deceased at age ___ lung Ca + tobacco
Brother - HLD
Sister - HLD
 
Physical Exam:
Admission Vascular Surgery Physical 
PHYSICAL EXAM
Vital Signs: Temp: 98.4 RR: 20 Pulse: 89 BP: 117/75  
Neuro/Psych: Oriented x3, Affect Normal, NAD. 
Neck: No masses, Trachea midline, Thyroid normal size,
non-tender, no masses or nodules, No right carotid bruit, No 
left
carotid bruit. 
Nodes: No clavicular/cervical adenopathy, No inguinal 
adenopathy.
Skin: No atypical lesions. 
Heart: Regular rate and rhythm. 
Lungs: Clear, Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
No hepatosplenomegally, No hernia, No AAA. 
Extremities: No popiteal aneurysm, No femoral bruit/thrill, No
RLE edema, No LLE Edema, No varicosities, No skin changes,
Cyanosis. 
 
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. 
___ Radial: P. 
RLE Femoral: P. 
LLE Femoral: P. 

Discharge Physical Exam 
PHYSICAL EXAM 
Neuro/Psych: Oriented x3, Affect Normal, NAD. No gross or focal 
motor deficits. CN II-XII grossly intact. 
Neck: R neck dressing taken down, staples taken out, replaced 
with steri strips. Mild neck swelling, no palplable 
hematoma/fluid collection. 
Heart: Regular rate and rhythm. 
Lungs: Normal respiratory effort. 
Gastrointestinal: Non distended, No masses, Guarding or rebound,
Extremities: Warm, well perfused, motor function intact
Pulse Exam (P=Palpation, D=Dopplerable, N=None)
RUE Radial: P. 
___ Radial: P. 
RLE Femoral: P. 
LLE Femoral: P. 

 
Pertinent Results:
Admission Lab
___ 10:03PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:15AM BLOOD %HbA1c-5.7 eAG-117
___ 10:03PM BLOOD Albumin-3.7 Calcium-8.8 Phos-3.5 Mg-2.1
___ 10:03PM BLOOD cTropnT-<0.01
___ 05:15AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 03:11PM BLOOD CK-MB-4 cTropnT-0.01
___ 10:03PM BLOOD ALT-15 AST-13 AlkPhos-72 TotBili-0.2
___ 10:03PM BLOOD Glucose-104* UreaN-18 Creat-0.9 Na-148* 
K-3.7 Cl-108 HCO3-27 AnGap-13
___ 10:03PM BLOOD ___ PTT-30.7 ___
___ 05:15AM BLOOD Lupus-NEG
___ 10:03PM BLOOD Neuts-67.3 ___ Monos-7.1 Eos-0.0* 
Baso-0.3 Im ___ AbsNeut-4.26 AbsLymp-1.59 AbsMono-0.45 
AbsEos-0.00* AbsBaso-0.02
___ 10:03PM BLOOD WBC-6.3 RBC-3.58* Hgb-12.4 Hct-35.5 
MCV-99* MCH-34.6* MCHC-34.9 RDW-11.9 RDWSD-42.7 Plt ___
___ 10:03PM BLOOD WBC-6.3 RBC-3.58* Hgb-12.4 Hct-35.5 
MCV-99* MCH-34.6* MCHC-34.9 RDW-11.9 RDWSD-42.7 Plt ___. Redemonstrated few small right frontal hypodensities likely 
representing 
acute to subacute infarcts better evaluated on the recent MRI 
head study. 
2. Evidence of a 2 mm penetrating atherosclerotic ulcer arising 
from the 
posterior aspect of the proximal right ICA.  Approximately 50% 
narrowing of 
the proximal right internal carotid artery. 
3. No CTA evidence of arterial dissection, aneurysm or 
high-grade stenosis. 

Carotid Duplex Neck
RIGHT: 
The right carotid vasculature has minimal heterogeneous 
atherosclerotic 
plaque. 
The peak systolic velocity in the right common carotid artery is 
61 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
right internal 
carotid artery are 75, 83, and 70 cm/sec, respectively. 
The peak end diastolic velocity in the right internal carotid 
artery is 27 
cm/sec. 
The ICA/CCA ratio is 1.3. 
The external carotid artery has peak systolic velocity of 78 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
LEFT: 
The left carotid vasculature has minimal 
heterogeneousatherosclerotic plaque. 
The peak systolic velocity in the left common carotid artery is 
84 cm/sec. 
The peak systolic velocities in the proximal, mid, and distal 
left internal 
carotid artery are 69, 69, and 52 cm/sec, respectively. 
The peak end diastolic velocity in the left internal carotid 
artery is 27 
cm/sec. 
The ICA/CCA ratio is 0.82. 
The external carotid artery has peak systolic velocity of 59 
cm/sec. 
The vertebral artery is patent with antegrade flow. 
  
IMPRESSION:  
  
Right ICA <40% stenosis. 
Left ICA <40% stenosis. 
  
Discharge Labs 
___ 02:50AM BLOOD Hct-35.3
___ 05:15AM BLOOD WBC-6.9 RBC-3.86* Hgb-13.0 Hct-38.4 
MCV-100* MCH-33.7* MCHC-33.9 RDW-12.1 RDWSD-43.8 Plt ___
___ 05:15AM BLOOD ___ PTT-29.2 ___
___ 02:50AM BLOOD Creat-0.8 K-4.1
___ 05:15AM BLOOD Glucose-102* UreaN-17 Creat-0.7 Na-148* 
K-3.8 Cl-108 HCO3-26 AnGap-14
___ 03:11PM BLOOD CK-MB-4 cTropnT-0.01
 
Brief Hospital Course:
Ms. ___ presented initally to ___ on ___ in 
the setting of two recent, transient episodes of LUE 
numbness/weakness. At ___, she had an MRI 
demonstrating multifocal infarcts in the right MCA distribution, 
a combination of new and subacute findings. In the setting of 
these multifocal infarcts and a complex medical history (recent 
history of cryptogenic stroke (___), known R ICA stenosis 
(50%), known PFO on AC (apixaban)), Ms. ___ was transferred 
to ___ for further care. 

She was admitted to the neurology service and began stroke 
workup. She was completely neurologically intact on 
presentation. CTA head/neck showed 2mm penetrating 
atherosclerotic ulcer in her R ICA, and approximately 50% 
narrowing of the proximal right internal carotid artery. 
Comparison with prior CTA (___) demonstrated a possible small 
break in prior R ICA thrombus. Venous duplex was negative for 
DVT, TTE was negative for intra-cardiac thrombus. 
Hypercoaguability workup was grossly negative, some pending 
results at time of discharge (cardiolipin pending, anti-thrombin 
negative, B2-glycoprotein negative). She was transiently started 
on Coumadin before being transitioned to a heparin drip for 
anticoagulation. She was evaluated by our team (vascular 
surgery) on ___, and felt to be a good candidate for right 
carotid endarterectomy. Given her negative TTE, negative ___ 
venous duplex, and possible interval changes in appearance of 
the thrombus in her R ICA, concern was high for carotid etiology 
for her symptoms. She was taken to the OR on ___ for right 
carotid endarterectomy. Surgery was uncomplicated. A hemorrhagic 
plaque was removed from the right ICA. See op note for full 
details. Given the gross appearance of the plaque, it seems very 
likely her symptoms were related to her R ICA disease. Post-op, 
Ms. ___ was neurologically intact (no gross, focal, or 
cranial nerve deficits). She recovered in the post-operative 
care unit for several hours before being transferred to the 
floor for continued monitoring. 

Her post-op course was largely uncomplicated. She had a mild 
headache on the morning of post-op day 1, and complained of mild 
nausea in the setting of having taken morning medications prior 
to eating. Her headache and nausea resolved over the course of 
the morning. Given her nausea in the setting of recent procedure 
under general anesthesia, troponins were sent to rule out MI. 
Troponins were negative (Troponin T <0.01). Her nausea had 
resolved by mid-morning. Ms. ___ had an episode of 
asymptomatic hypertension to SBP 150-160s on post-op day 1, for 
which she was given metoprolol x1 with good response. Ms. 
___ was normotensive (SBP 120s-130s) at time of discharge. 
Prior to discharge, staples were removed from her R neck 
incision and were replaced with steri-strips. Her steri-strip 
dressed incision was clean/dry/intact at the time of discharge.

Ms. ___ was discharge on the evening of post-op 1 with 
instructions to follow up in clinic with Dr. ___ in 1 
month, with repeat carotid duplex. She was discharged on Plavix 
(new medication, 75mg QD), off anticoagulation.  

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN COPD/asthma 
2. Allopurinol ___ mg PO DAILY 
3. Apixaban 5 mg PO BID 
4. Atorvastatin 80 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Furosemide 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN COPD/asthma 
2. Allopurinol ___ mg PO DAILY 
3. Clopiogrel 75mg PO QD (ongoing until f/u with neurology)
4. Atorvastatin 80 mg PO QPM 
5. Clopidogrel 75 mg PO DAILY 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Furosemide 20 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Docusate Sodium 100 mg PO DAILY 
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right carotid stenosis, right middle
cerebral artery territory stroke.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital after a 
carotid endarterectomy.  This surgery was done to restore proper 
blood flow to your brain.  To perform this procedure, an 
incision was made in your neck.  You tolerated the procedure 
well and are now ready to be discharged from the hospital.   
Please follow the recommendations below to ensure a speedy and 
uneventful recovery.

 WHAT TO EXPECT:
 Bruising, tenderness, mild swelling, numbness and/or a firm 
ridge at the incision site is normal.  This will improve 
gradually in the next 2 weeks.
 You may have a sore throat and or mild hoarseness.  Warm tea, 
throat lozenges, or cool drinks usually help.
 It is normal to feel tired for ___ weeks after your surgery.
 MEDICATION INSTRUCTIONS:

 Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!

 It is very important that you take Aspirin every day!  You 
should never stop this medication before checking with your 
surgeon.

 You should require less pain medication each day.   You should 
take Tylenol ___ every 6 hours, as needed for neck pain.  
.Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much total 
Tylenol you are taking in a day.  Do not take more than a daily 
total of 3000mg of Tylenol.  If Tylenol is not enough, take your 
prescription pain medication very sparingly.  You should never 
drive or operate machinery while on narcotics.

 Narcotic pain medication can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative.

 CARE OF YOUR NECK INCISION:
 You may shower 48 hours after your procedure.  Avoid direct 
shower spray to the incision.  Let soapy water run over the 
incision, then rinse and gently pat the area dry.  Do not scrub 
the incision.

 Your neck incision may be left open to air and uncovered unless 
you have a small amount of drainage at the site.  If drainage is 
present, place a small sterile gauze over the incision and 
change the gauze daily.
 Do not take a bath or go swimming for 2 weeks.
 ACTIVITY:
 Do not drive for one week after your procedure.  Do not ever 
drive after taking narcotic pain medication.
 You should not push, pull, lift or carry anything heavier than 
5 pounds for the next 2 weeks.

 After 2 weeks, you may return to your regular activities 
including exercise, sexual activitiy and work.
 DIET:
 It is normal to have a decreased appetite.  Your appetite will 
return over time.  Follow a well-balanced, heart healthy diet, 
with moderate restriction of salt and fat.
 SMOKING:
 If you smoke, it is very important for you to stop.  Research 
has shown that smoking makes vascular disease worse.  Talk to 
your primary care provider about ways to quit smoking.
 The ___ Smokers' Helpline is a FREE and confidential 
way to get support and information to help you quit smoking.  
Call ___
 CALLING FOR HELP
 If you need help, please call us at ___.  If you call 
during non-business hours, you will reach someone who can help 
you reach the vascular surgeon on call.

 To get help right away, call ___.
 Call the surgeon right away for:
_x0095_             headache that is not controlled with pain 
medication or headache that is getting worse
_x0095_             fever of 101 degrees or more
_x0095_             bleeding from the incision, or drainage the is new 
or increased, or drainage that is white yellow or green
_x0095_             pain that is not relieved with medication, or pain 
that is getting worse instead of better
 If you notice any of the following signs of stroke, call ___ to 
get help right away.
_x0095_             sudden numbness or weakness of the face, arm or 
leg (especially on one side of the body)
_x0095_             sudden confusion, trouble speaking or trouble 
understanding speech
_x0095_             trouble seeing in one or both eyes
_x0095_             sudden trouble walking, dizziness, loss of balance 
or coordination
_x0095_             sudden severe headache with no known cause

 
Followup Instructions:
___